US09416138B2
4-(2,2-Diethoxyethyl)-1,4-benzoxazin-3-one
Dissolve 2H-1,4-benzoxazin-3(4H)-one (1.0 g, 6.64 mmol) in dimethylacetamide (5 mL); add potassium tert-butoxide (1.54 g, 13.28 mmol); and stir at ambient temperature for 5 minutes. Add 2-bromo-1,1-diethoxyethane (10.1 mL, 66.4 mmol) and tetra-N-butylammonium iodide (2.49 g, 6.64 mmol). Heat the reaction mixture to 80° C. and stir for 2 hours. Thereafter allow the reaction to cool to ambient temperature. Dilute the reaction mixture with Et2O and water; separate the layers; and extract the aqueous layer with additional Et2O. Combine the organic extracts; dry over Na2SO4; filter; and concentrate the filtrate under reduced pressure. Purify via flash column chromatography using a step gradient of 0%, 10%, 20% and 30% of EtOAc in hexanes. Concentrate the desired fractions to afford the title compound (1.65 g, 93.7%) as a waxy solid. 1H (300 MHz, CDCl3): δ 7.36-7.32 (m, 1H), 7.03-6.97 (m, 3H), 4.78 (t, J=5.5 Hz, 1H), 4.59 (s, 2H), 4.02 (d, J=5.5 Hz, 2H), 3.81-3.70 (m, 2H), 3.58-3.48 (m, 2H), 1.16 (t, J=7.0 Hz, 6H).

reactant | 2H-1,4-benzoxazin-3(4H)-one | 6.64 mmol, 1.0 g | O1CC(NC2=C1C=CC=C2)=O | C8H7NO2
reactant | potassium tert-butoxide | 13.28 mmol, 1.54 g | CC(C)([O-])C.[K+]
reactant | 2-bromo-1,1-diethoxyethane | 66.4 mmol, 10.1 mL | BrCC(OCC)OCC | C6H13BrO2
solvent | dimethylacetamide | 5 mL | CC(=O)N(C)C | C4H9NO
solvent | Et2O | CCOCC | C4H10O
solvent | water | O | H2O
product | 4-(2,2-Diethoxyethyl)-1,4-benzoxazin-3-one | 1.65 g, 93.7% | C(C)OC(CN1C(COC2=C1C=CC=C2)=O)OCC | C14H19NO4
